US08017607B2
To a solution of 4-chloro-2-fluoro-benzyl cyanide (Oakwood) (3.39 g, 20.0 mmol) and cyclopropyl-acetaldehyde (Aldrich) (1.68.0 g, 20.0 mmol) in iPrOH (25 mL) was added 2 N NaOH (2.0 mL) dropwise at rt and the reaction mixture was stirred at rt overnight. The reaction mixture was diluted with EtOAc and the organic layer was separated, washed with water, brine, dried over Na2SO4 and concentrated. The residue was dried overnight under reduced pressure to afford (Z)-2-(4-chloro-2-fluoro-phenyl)-4-cyclopropyl-but-2-enenitrile (2.36 g, 50.0%) as a colorless oil which was used in the next step without further purification.

reactant | 4-chloro-2-fluoro-benzyl cyanide | 20.0 mmol, 3.39 g | ClC1=CC(=C(CC#N)C=C1)F | C8H5ClFN
reactant | cyclopropyl-acetaldehyde | 20.0 mmol | C1(CC1)CC=O | C5H8O
reactant | NaOH | 2 N, 2.0 mL | [OH-].[Na+]
solvent | iPrOH | 25 mL | CC(C)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (Z)-2-(4-chloro-2-fluoro-phenyl)-4-cyclopropyl-but-2-enenitrile | 2.36 g, 50.0% | ClC1=CC(=C(C=C1)/C(/C#N)=C/CC1CC1)F | C13H11ClFN
